US06008401
Synthesis of 4,4'-((S)-2-methylbutanedioxy)bisbenzonitrile
Sodium hydride (2.88 g, 120 mmol) was dispersed in 50 ml DMF and then added with (S)-2-methyl-1,4-butanediol (5.21 g, 50.0 mmol) while being iced with ice. The reaction mixture after being cooled with ice for another one hour was stirred at room temperature for 2 hours and then added with 4-chlorobenzonitrile (15.3 g, 120 mmol), followed by reaction for 20 hours. After completion of the reaction, the reaction mixture was added carefully with 5 ml water to inactivate excess sodium hydride, followed by vacuum-distillation of DMF. After addition of 200 ml water, a precipitate thus obtained was filtrated and recrystallized from 100 ml ethanol thereby providing the intended product (12.5 g, 40.8 mmol, 82%).

reactant | Sodium hydride | 120 mmol, 2.88 g | [H-].[Na+]
reactant | (S)-2-methyl-1,4-butanediol | 50.0 mmol, 5.21 g | C[C@H](CO)CCO | C5H12O2
reactant | 4-chlorobenzonitrile | 120 mmol, 15.3 g | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | water | 5 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4,4'-((S)-2-methylbutanedioxy)bisbenzonitrile | 40.8 mmol, 12.5 g, 82% | C[C@H](COC1=CC=C(C#N)C=C1)CCOC1=CC=C(C#N)C=C1 | C19H18N2O2
